US06331563B1
1-Ethyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-ethyl4-(methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester (2.42 g, 6.8 mmol) dissolved in methanol (100 ml) and 10 N NaOH (15 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.29 g (58%); white solid; mp 209° C.; MS: 328 (M+H)+.

reactant | 1-ethyl4-(methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | 6.8 mmol, 2.42 g | C(C)OC(=O)C1(CCN(CC1)CC)S(=O)(=O)C1=C(C=CC=C1)OC | C17H25NO5S
reactant | methanol | 100 ml | CO | CH4O
solvent | NaOH | 10 N, 15 ml | [OH-].[Na+]
product | 1-Ethyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | C(C)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C15H21NO5S
